US05658922
20-tert-Butyldimethylsilyloxy-7-methyl-pregn-4,6-diene-3-one
A solution of 20-tert-butyldimethylsilyloxy-7-methyl-pregn-5-ene-3,7-diol (298 gm, 0.59 mol) in toluene (3 L) and cyclohexanone (1.03 L) was azeotroped to remove 750 mL of solvent. A solution of aluminum isopropoxide (121 gm) in toluene (620 mL) was added and the solution azeotroped to remove another 650 mL of solvent. A reflux condenser was added and the solution refluxed overnight. The solution was cooled to 40° C. and Supercell® (125 gm) and water (125 mL) were added. After stirring for 10 min, the mixture was filtered and the solids washed with toluene (550 mL). The solvent was removed by rotoevaporation to yield a orange liquid which was purified by column chromatography on silica gel eluted with hexane, followed by 5-10% ethyl acetate in hexanes. The title compound was isolated as a mixture of 20α- and 20β-isomers (199.4 gm, 76% yield).

reactant | 20-tert-butyldimethylsilyloxy-7-methyl-pregn-5-ene-3,7-diol | 0.59 mol, 298 gm | [Si](C)(C)(C(C)(C)C)OC(C)[C@H]1CC[C@H]2[C@@H]3C(C=C4CC(CC[C@]4(C)[C@H]3CC[C@]12C)O)(O)C | C28H50O3Si
solvent | toluene | 3 L | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexanone | 1.03 L | C1(CCCCC1)=O | C6H10O
product | 20-tert-Butyldimethylsilyloxy-7-methyl-pregn-4,6-diene-3-one | [Si](C)(C)(C(C)(C)C)OC(C)[C@H]1CC[C@H]2[C@@H]3C(=CC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C28H46O2Si
